US04297439
Compound 1.8: 1-amino-4,7-dithianonane
106 g (1 mole) of 1-hydroxy-3-thiapentane were boiled under reflux for 3 hours with 76 g (1 mole) of thiourea and 110 g (1.1 mole) of 37% hydrochloric acid. A solution of 68 g (1.21 moles) of potassium hydroxide in 100 ml of water was then added dropwise with stirring at 313° to 323° K. After heating for 40 minutes to 363° K., the 3-thiapentane-1-thiol precipitated was separated off in a separation funnel and dissolved under nitrogen at 303° to 313° K. in 400 g of 40% KOH (2.85 moles of KOH) accommodated in a 1000 ml three-necked flask. A solution of 130 g of 3-chloropropylamine hydrochloride (1 mole) in 160 ml of water was then added dropwise with stirring at 343° K. After stirring for another 3 hours at 363° K., the mixture was cooled to 323° K. and separated in a separation funnel. The oil phase was fractionated in vacuo twice.

reactant | 1-hydroxy-3-thiapentane | 1 mole, 106 g | OCCSCC | C4H10OS
reactant | thiourea | 1 mole, 76 g | NC(=S)N | CH4N2S
reactant | hydrochloric acid | 1.1 mole, 110 g | Cl | ClH
reactant | potassium hydroxide | 1.21 moles, 68 g | [OH-].[K+]
reactant | KOH | 2.85 moles, 400 g | [OH-].[K+]
reactant | 3-chloropropylamine hydrochloride | 1 mole, 130 g | Cl.ClCCCN
solvent | water | 100 ml | O | H2O
solvent | water | 160 ml | O | H2O
product | 1-amino-4,7-dithianonane | NCCCSCCSCC | C7H17NS2
